US04016166
To a solution of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione and 30 ml of dimethylformamide was added 1.4 g of sodium ethoxide, and the whole was stirred for 30 minutes at room temperature. To this was further added 4.1 g of cyclopropylmethyl bromide, and the mixture was reacted for 2 hours at room temperature. Then, the solvent was distilled off from the resulting mixture under reduced pressure to leave a residue, to which was added water to precipitate a crude product. Recrystallization of this product from methanol gave 3.1 g of 1-(m-nitrophenyl)-3-cyclopropylmethyl-quinazoline- 2,4(1H, 3H)-dione as colorless needles, melting, at 163°-164° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium ethoxide | 1.4 g | [O-]CC.[Na+]
reactant | cyclopropylmethyl bromide | 4.1 g | C1(CC1)CBr | C4H7Br
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-cyclopropylmethyl-quinazoline- 2,4(1H, 3H)-dione | 3.1 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CC1CC1)=O | C18H15N3O4
